US08404719B2
To 4-(chlorosulfonyl)benzoyl chloride (3 mmol) in anhydrous dichloromethane (100 mL) was slowly added over 10 minutes (R)-octahydropyrrolo[1,2-α]pyrazine (0.379 g, 3 mmol) at room temperature in dichloromethane (4 mL). Then sodium carbonate (0.954 g, 9 mmol) was added. The mixture was stirred at room temperature overnight. Then the reaction mixture was concentrated to provide 4-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]benzenesulfonyl chloride which was used without additional purification.

reactant | 4-(chlorosulfonyl)benzoyl chloride | 3 mmol | ClS(=O)(=O)C1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O3S
reactant | (R)-octahydropyrrolo[1,2-α]pyrazine | 3 mmol, 0.379 g | C1[C@@H]2N(CCN1)CCC2 | C7H14N2
reactant | sodium carbonate | 9 mmol, 0.954 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 4-[(8aR)-hexahydropyrrolo[1,2-α]pyrazin-2(1H)-ylcarbonyl]benzenesulfonyl chloride | C1[C@@H]2N(CCN1C(=O)C1=CC=C(C=C1)S(=O)(=O)Cl)CCC2 | C14H17ClN2O3S
